US07842685B2
To a slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-benzylthiazolo[5,4-b]pyridine (2.28 g, 5.6 mmol) in 40 mL DMF under argon was added lithium bis(trimethylsilyl)amide, 1.0 m solution in tetrahydrofuran (7.0 mL, 7.0 mmol). A very deep blue solution resulted. After 2 min, allyl iodide (0.77 mL, 8.4 mmol) was added via syringe and the reaction became brown. After 5 min, sat'd aq. NH4Cl was added and the reaction partitioned between water and EA. The organic was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting material was sonicated in MTBE, filtered, and dried to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylbut-3-enyl)thiazolo[5,4-b]pyridine as a yellow solid. MS (ESI) m/z: Calculated: 446.2; Observed: 447.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-benzylthiazolo[5,4-b]pyridine | 5.6 mmol, 2.28 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)CC1=CC=CC=C1)F | C23H19FN2O2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tetrahydrofuran | 7.0 mmol, 7.0 mL | O1CCCC1 | C4H8O
reactant | allyl iodide | 8.4 mmol, 0.77 mL | C(C=C)I | C3H5I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylbut-3-enyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(CC=C)C1=CC=CC=C1)F | C26H23FN2O2S
